US04460770
The resulting, crude 2-chloro-4-[(p-heptylbenzoyl)oxy]benzaldehyde is dissolved in 350 ml of acetone. Within 40 minutes there are added dropwise thereto 30 ml of Jones' reagent, the mixture warming slightly. The mixture is stirred for a further 1 hour, precipitated inorganic material is then filtered off under suction, the filtrate is diluted with 300 ml of water (the product precipitating), concentrated on a rotary evaporator to about 300 ml and the suspension obtained is suction filtered. The suction filter material is washed three times with 50 ml of 10% aqueous acetone, dried and recrystallized from about 60 ml of benzene. There are obtained 13.8 g of 2-chloro-4-[(p-heptylbenzoyl)oxy]benzoic acid, m.p. 108° C. (nematic).

reactant | 2-chloro-4-[(p-heptylbenzoyl)oxy]benzaldehyde | ClC1=C(C=O)C=CC(=C1)OC(C1=CC=C(C=C1)CCCCCCC)=O | C21H23ClO3
reactant | Jones' reagent | 30 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 350 ml | CC(=O)C | C3H6O
product | 2-chloro-4-[(p-heptylbenzoyl)oxy]benzoic acid | 13.8 g | ClC1=C(C(=O)O)C=CC(=C1)OC(C1=CC=C(C=C1)CCCCCCC)=O | C21H23ClO4
